US07727988B2
4-thioxo-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-3,4-dihydro-2(1H)-pyrimidinone hydrochloride (E33)
4-thioxo-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-3,4-dihydro-2(1H)-pyrimidinone was dissolved in dioxane and then treated with a solution of 4N HCl in dioxane (500 μl) to give the title compound as a yellow oil.

reactant | 4-thioxo-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-3,4-dihydro-2(1H)-pyrimidinone | S=C1NC(N(C=C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O | C20H22F3N3OS
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 500 μl | O1CCOCC1 | C4H8O2
product | 4-thioxo-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-3,4-dihydro-2(1H)-pyrimidinone hydrochloride | Cl.S=C1NC(N(C=C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O | InChI=1S/C20H22F3N3OS.ClH/c21-20(22,23)15-5-3-14(4-6-15)19-11-16(19)12-25(13-19)8-1-2-9-26-10-7-17(28)24-18(26)27;/h3-7,10,16H,1-2,8-9,11-13H2,(H,24,27,28);1H/t16-,19+;/m0./s1
